US07166598B2
Sodium triacetoxyborohydride (36.7 g) was added portion wisely to a mixture of (2S)-2-amino-1-propanol (10.0 g) and benzaldehyde (13.53 ml) in a mixture of dichloromethane (140 ml) and acetic acid (8.38 ml) at 0° C. and the whole was stirred at room temperature overnight. The mixture was washed successively with 2N sodium hydroxide and brine, and dried over sodium sulfate. The solution was evaporated under reduced pressure and the resulting residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (30:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give (2S)-2-benzylamino-1-propanol (15.96 g).

reactant | Sodium triacetoxyborohydride | 36.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (2S)-2-amino-1-propanol | 10.0 g | N[C@H](CO)C | C3H9NO
reactant | benzaldehyde | 13.53 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | acetic acid | 8.38 ml | C(C)(=O)O | C2H4O2
product | (2S)-2-benzylamino-1-propanol | 15.96 g | C(C1=CC=CC=C1)N[C@H](CO)C | C10H15NO
